Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
moving vehicle collision
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: ___ is a ___ w/ hx of asthma, HTN, and recent
lap gastric sleeve ~6 mo's ago who is presenting here to the ED
after MVC this morning, +seatbelt, +airbag deployed. He was in
his usual state of health before this weekend, but had traveled
over the weekend and worked last night and as a result felt 
tired
this morning - he says he thinks his fell asleep briefly while
driving and crashed his car. He denies any chest pain, SOB, or
palpitations at that time. He presented to ___, where CT
head, C-spine, and torso were obtained, which, on review w/
radiology here, showed L rib 2 fx, sternal fx, and L clavicle 
fx.
He was txfr'ed here for further management, for which we were
consulted. EKG here showed sinus rhythm w/ T wave inversions on
aVF and V1, but no baseline EKG was available. thopedics was
consulted, who recommended non-op management of clavicle fx, and
also noted a R coronoid process fx, which is also reportedly
nonoperative.
 
Past Medical History:
PMHx: asthma, HTN

PSHx: lap gastric sleeve ~6 mo ago
 
Social History:
___
Family History:
Fam Hx: no fam hx of bleeding or clotting d/o's
 
Physical Exam:
Phys Ex:
VS - 97.9 73 127/73 14 94% RA
Gen - NAD
HEENT - PERRL, no blood in mouth, nares, or ears, full passive
and active neck ROM w/o C-spine pain but mild C-spine ttp
CV - RRR
Pulm - non-labored breathing, no resp distress, satting
adequately on RA, decreased BS in b/l posterior lower lung
fields, 
Abd - soft, non distended, RLQ ecchymosis that it mildly ttp,
healed lap port site incisional scars
MSK & extremities/skin - mild L hip ttp, no leg swelling 
observed
b/l, L arm in sling, no bony stepoffs or T, L, or S-spine ttp
 
Pertinent Results:
ADMISSION
___ 10:23AM BLOOD WBC-10.4* RBC-4.64 Hgb-12.8* Hct-40.1 
MCV-86 MCH-27.6 MCHC-31.9* RDW-16.1* RDWSD-50.1* Plt ___
___ 10:23AM BLOOD ___ PTT-26.6 ___
___ 10:23AM BLOOD Glucose-103* UreaN-12 Creat-0.9 Na-140 
K-4.5 Cl-102 HCO3-23 AnGap-15
___ 10:23AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING from ___:
L clavicle XR:
Oblique, foreshortened and inferiorly displaced fracture at the 
midshaft of the left clavicle. 

CT R UE: 
1. Proximal ulna fractures at the coronoid process and posterior 
lip of the 
olecranon with associated joint effusion. 
2. Small fragment at the lateral epicondyle distal humerus, 
which may 
represent a loose body, chronicity undetermined. No donor site 
identified. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man who was a restrained driver in a ___ 
who sustained multiple fractures (L rib 2 fx, sternal fx, L 
displaced clavicle rx, R coronoid fx). The orthopedic service 
saw the patient and recommended non-operative management. The 
patient was monitored on telemetry given concerns for cardiac 
contusion without significant events. 

The patient was discharged with plans for orthopedic follow up 
in 2 weeks. He also has a repeat CT abdominal scan scheduled in 
6 weeks to monitor interval improvement of a left liver lesion 
that was felt to most likely represent contusion. 

 
Medications on Admission:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing  
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 20 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 20 pills by mouth twice a day Disp 
#*20 Tablet Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing  
5.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L rib 2 fx
Sternal fx
L displaced clavicle fx
R coronoid process fx 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,
You came here after a motor vehicle collision with a number of 
fractures. Your injuries were non-operative and you were managed 
supportively here. You should follow up with the orthopedic 
service (Dr. ___ in 2 weeks.
You have been arranged for home services with occupational 
therapy  to help with rehabilitation. 

You are also scheduled for a repeat CT san on ___ at 12:45 
in the ___ Building ___ floor to follow up possible liver 
injury. Do not eat or drink an hour before arriving. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

 *You experience new chest pain, pressure, squeezing or 
tightness.

 *New or worsening cough, shortness of breath, or wheeze.

 *If you are vomiting and cannot keep down fluids or your 
medications.

 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.

 *You see blood or dark/black material when you vomit or have a 
bowel movement.

 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

 *Any change in your symptoms, or any new symptoms that concern 
you.

 Please resume all regular home medications , unless 
specifically advised not to take a particular medication. Also, 
please take any new medications as prescribed.

 
Followup Instructions:
___